US04304728
5-Chloro-4-oxo-6-phenyl-4H-pyran-2-carboxylic acid
A solution of ethyl 6-benzoyl-5-oxo-2,7-dioxabicyclo[4.1.0]-hept-3-ene-3-carboxylate (2.9 g) prepared as in Example 44, in dioxan (30 ml) and concentrated hydrochloric acid (10 mol) was heated under reflux for 2 hours. The solution was evaporated under vacuum and the solid residue was crystallised from ethyl acetate-petroleum ether 60°-80° C. and then from dioxan-water to give the title product (mp 216°-218° C. with decomposition).

reactant | ethyl 6-benzoyl-5-oxo-2,7-dioxabicyclo[4.1.0]-hept-3-ene-3-carboxylate | 2.9 g | C(C1=CC=CC=C1)(=O)C12C(C=C(OC2O1)C(=O)OCC)=O | C15H12O6
reactant | hydrochloric acid | 10 mol | Cl | ClH
solvent | dioxan | 30 ml | O1CCOCC1 | C4H8O2
product | 5-Chloro-4-oxo-6-phenyl-4H-pyran-2-carboxylic acid | ClC=1C(C=C(OC1C1=CC=CC=C1)C(=O)O)=O | C12H7ClO4
